US08071592B2
(g) 1-[2-(4-amino-1-piperidinyl)ethyl]-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one
To a solution of 1,1-dimethylethyl {1-[2-(8-ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate (0.234 g, 0.559 mmol) in DCM (2 ml) was added TFA (1 ml) and the reaction was allowed to stirred at rt for 1 h before evaporation of solvent. The residue was dissolved in 1:1 DCM and MeOH (2 ml) and then treated with MP-Carbonate resin until the pH reached 8. The reaction was then filtered, resin washed with MeOH and the filtrate was evaporated to dryness to give a yellow oil (0.176 g, 99%).

reactant | 1,1-dimethylethyl {1-[2-(8-ethyl-7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl]-4-piperidinyl}carbamate | 0.559 mmol, 0.234 g | C(C)C=1C(=CN=C2C=CC(N(C12)CCN1CCC(CC1)NC(OC(C)(C)C)=O)=O)F | C22H31FN4O3
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | MP-Carbonate resin | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | DCM | 2 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 ml | CO | CH4O
product | 1-[2-(4-amino-1-piperidinyl)ethyl]-8-ethyl-7-fluoro-1,5-naphthyridin-2(1H)-one | 0.176 g, 99% | NC1CCN(CC1)CCN1C(C=CC2=NC=C(C(=C12)CC)F)=O | C17H23FN4O
